US07655652B2
(2Z)-3-(Dimethylamino)-2-fluoro-1-(1-isopropyl-2-methyl-1H-imidazol-5-yl)prop-2-en-1-one
To a stirred solution of (2E)-3-(dimethylamino)-1-(1-isopropyl-2-methyl-1H-imidazol-5-yl)prop-2-en-1-one, (Method 24 of WO 03/076436; 5.53 g, 25 mmol) in MeOH (100 ml) at ambient temperature, was added in portions over 5 mins, Selectfluor (14.16 g, 40 mmol). The temperature was maintained at 25-30° C. by slight cooling. After stirring for 90 min the reaction mixture was cooled in ice/acetone and filtered. The filtrate was evaporated under reduced pressure and the residue was taken into DCM. It was washed with aq. ammonia, brine, dried over anhydrous Na2SO4 and evaporated under reduced pressure. The title compound was isolated by MPLC on silica gel using two separate columns (10% EtOH/EtOAc, then 3.5% EtOH/DCM) as a golden viscose oil, which crystallized on standing over several weeks. Yield=2.50 g (42%). NMR (300 Mz): 1.40 (d, 6H), 2.38 (s, 3H), 3.05 (s, 6H), 4.70 (septet, 1H), 6.96 (d, 1H), 7.08 (s, 1H); 19F NMR (376 MHz): −166.7 (d); m/z 240.

reactant | (2E)-3-(dimethylamino)-1-(1-isopropyl-2-methyl-1H-imidazol-5-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CN=C(N1C(C)C)C)C | C12H19N3O
reactant | Selectfluor | 40 mmol, 14.16 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | MeOH | 100 ml | CO | CH4O
product | (2Z)-3-(Dimethylamino)-2-fluoro-1-(1-isopropyl-2-methyl-1H-imidazol-5-yl)prop-2-en-1-one | CN(\C=C(\C(=O)C1=CN=C(N1C(C)C)C)/F)C | C12H18FN3O
